US05374604
Following the procedure of Example 4a) above, benzyl alcohol (5 g; 46 mmols) reacted with sodium hydride (1.19 g), was refluxed for 1 hour with 2,6-dichloropyridine (6.9 g; 46 mmols) using sodium hydride and dry dimethylformamide as solvent. 2-Benzyloxy-6-chloropyridine (6.1 g; 60%) was obtained as a colorless oil following solvent extraction with chloroform/water (500 ml; 50/50), purification and chromatographic separation of the product from the organic layer, identified by elemental analysis and mass spectrum.

reactant | benzyl alcohol | 46 mmols, 5 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 2,6-dichloropyridine | 46 mmols, 6.9 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | sodium hydride | 1.19 g | [H-].[Na+]
product | 2-Benzyloxy-6-chloropyridine | 6.1 g, 60% | C(C1=CC=CC=C1)OC1=NC(=CC=C1)Cl | C12H10ClNO
